US07410966B2
6-Chloro-7-methoxy-2-[4-(2-morpholin-4-ylethoxy)phenyl]-3H-imidazo[4,5-b]pyridine
6-Chloro-2-[4-(2-chloroethoxy)phenyl]-7-methoxy-3H-imidazo[4,5-b]pyridine (0.27 g, 0.8 mmol), morpholine (0.22 ml, 2.52 mmol) and Hünig's base (1.42 ml, 8.15 mmol) were dissolved in NMP (20 ml) and the mixture was heated at 100° C. for 9 h. The NMP was partly removed by evaporation, after which water was added. The precipitated crude material was purified by column chromatography (dichloromethane/methanol 95:5), giving the title product (0.022 g, 7%).

reactant | 6-Chloro-2-[4-(2-chloroethoxy)phenyl]-7-methoxy-3H-imidazo[4,5-b]pyridine | 0.8 mmol, 0.27 g | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCl)OC | C15H13Cl2N3O2
reactant | morpholine | 2.52 mmol, 0.22 ml | N1CCOCC1 | C4H9NO
reactant | Hünig's base | 8.15 mmol, 1.42 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
product | 6-Chloro-7-methoxy-2-[4-(2-morpholin-4-ylethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | 0.022 g, 7% | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCN2CCOCC2)OC | C19H21ClN4O3
